US07238716B2
To a mixture of 2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinonitrile (4.25 g) and toluene (150 mL) was dropwise added a solution (0.95 M, 23.0 mL) of diisobutylaluminum hydride in hexane at −78° C. After stirring for 1 hr the reaction mixture was warmed to room temperature and the mixture was further stirred for 1 hr. A saturated aqueous ammonium chloride solution (35 mL) was dropwise added to the mixture and the mixture was stirred at room temperature for 30 min. To the mixture was added ethyl acetate and the insoluble materials were filtered off. The filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give 2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinaldehyde as crystals from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless crystals (710 mg, 17%). melting point: 99-100° C.

reactant | 2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinonitrile | 4.25 g | COC=1C=C(COC2=C(C#N)C=CC=N2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H21N3O4
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 0.95 M, 23.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 35 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinaldehyde | COC=1C=C(COC2=C(C=O)C=CC=N2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H22N2O5
